US05663200
60a) 5(S)-[1(S)-(Boc-Amino)-2-cyclohexylethyl]dihydrofuran-2-(3H)-one
15 g (49.12 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one [Example 2b)] are dissolved in 150 ml of methanol, and this solution is treated with 0.75 g of Nishimura catalyst and hydrogenated (RT, standard pressure) until there is no further uptake of hydrogen. The catalyst is filtered off, the solvent is removed, and the residue is chromatographed on silica gel (toluene/ethyl acetate, 5:1). The title compound is obtained as a thick, viscous oil. IR (CH2Cl2) inter alia: 3431, 1774, 1711, 1501 und 1170 cm-1. FAB-MS (M+1)+ =312. 1H-NMR (DMSO-d6) inter alia: 6.80 (d, 1H); 4.40 (m, 1H); 3.66 (m, 1H); 2.58-2.43 (m, 2H); 2.37 (dxq, 1H); 2.14 (m, 1H) and 1.39 (s, 9H).

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one | 49.12 mmol, 15 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
product | 5(S)-[1(S)-(Boc-Amino)-2-cyclohexylethyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1CCCCC1)[C@@H]1CCC(O1)=O | C17H29NO4
